US06747023B1
1-[[6-(tert-Butoxycarbonyl)-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridin-2-yl]carbonyl]-4-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]piperazine
To a solution of lithium 6-(tert-butoxycarbonyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate (70.0 mg) in N,N-dimethylformamide (4.0 ml) were added 1-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]piperazine hydrochloride (90.0 mg), 1-hydroxybenzotriazole monohydrate (7.0 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (64.0 mg) at room temperature. After stirring for 2 days, ethyl acetate (30 ml) and water (500 ml) were added to the reaction mixture to separate it into layers. The water layer was extracted with ethyl acetate (30 ml). The organic layers were combined, washed with a saturated aqueous solution of sodium bicarbonate (100 ml), dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by preparative thin-layer chromatography (hexane:ethyl acetate=1:1) using silica gel, whereby the title compound (37.9 mg) was obtained as a colorless transparent glassy substance.

reactant | lithium 6-(tert-butoxycarbonyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | 70.0 mg | C(C)(C)(C)OC(=O)C1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
reactant | 1-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]piperazine hydrochloride | 90.0 mg | Cl.ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CCNCC2)C1
reactant | 1-hydroxybenzotriazole monohydrate | 7.0 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 64.0 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-[[6-(tert-Butoxycarbonyl)-4,5,6,7-tetrahydrooxazolo[5,4-c]pyridin-2-yl]carbonyl]-4-[(6-chlorobenzo[b]thien-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)C1CC2=C(CN1)OC(=N2)C(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=C(S2)C=C(C=C1)Cl | C24H27ClN4O6S2
